* Z:\mnt\design.r\spice\examples\ADP7159-01.asc
V1 IN 0 2.4
C3 OUT 0 10µ
R1 N003 N005 50K
R2 N005 0 100K
C4 N003 0 1µ
C1 N004 0 1µ
C2 N002 0 1µ
R3 IN N001 100K
XU1 OUT MP_01 OUT N002 N001 N005 N003 N004 IN 0 ADP7158_9
R5 OUT 0 1.8
.tran 5m startup
.lib ADP7158_9.sub
.backanno
.end
